US07781438B2
Preparation of N,N-Diethyl-2-methoxy-benzamide
N,N-dimethylformamide (0.52 ml, 6.70 mmol, 0.034 equiv) was added dropwise to a solution of 2-methoxy-benzoic acid (30.0 g, 197.2 mmol) in thionyl chloride (200 ml) at room temperature under an atmosphere of argon. The solution was stirred at room temperature for 45 minutes. Volatiles were removed in vacuo, and the residue was azeotroped with toluene (2×100 ml). The acid chloride was dissolved in anhydrous THF (220 ml), cooled to 0° C., and diethylamine (105 ml, 1.01 mol, 5.1 equiv) was added dropwise. The suspension was stirred at 0° C. for 10 minutes, when TLC analysis indicated complete conversion. The reaction mixture was diluted with water (50 ml) and extracted three times with EtOAc. The combined organic layers were washed with water (100 ml) and concentrated aqueous NH4Cl solution (50 ml), dried over Na2SO4, filtered and concentrated in vacuo. Purification of the residue via flash chromatography (gradient of hexane/EtOAc 6:4 to 3:7) afforded the title compound (40.87 g, quant.). 1H NMR (400 MHz, CDCl3): δ=7.31 (ddd, J=9.0/7.3/1.7 Hz, 1H), 7.17 (dd, J=7.1 Hz/1.5 Hz, 1H), 6.95 (dt, J=7.5/1.0 Hz, 1H), 6.89 (br d, J=8.3 Hz, 1H), 3.80 (s, 3H), 3,62-3.48 (br m, 2H), 3.13 (q, J=7.4 Hz, 2H), 1.23 (t, J=7.1 Hz, 3H), 1.02 (t, J=7.1 Hz, 3H). MS (ES+): 208 (M+H)+.

reactant | 2-methoxy-benzoic acid | 197.2 mmol, 30.0 g | COC1=C(C(=O)O)C=CC=C1 | C8H8O3
reactant | diethylamine | 1.01 mol, 105 ml, 5.1 equiv | C(C)NCC | C4H11N
solvent | thionyl chloride | 200 ml | S(=O)(Cl)Cl | Cl2OS
solvent | water | 50 ml | O | H2O
catalyst | N,N-dimethylformamide | 6.70 mmol, 0.52 ml, 0.034 equiv | CN(C=O)C | C3H7NO
product | N,N-Diethyl-2-methoxy-benzamide | 40.87 g | C(C)N(C(C1=C(C=CC=C1)OC)=O)CC | C12H17NO2
